US06355643B1
4-[5-(4-Heptanoyl-piperazin-1-ylmethyl)-imidazol-1-ylmethyl]-benzonitrile
To a solution of 1-(4′-Cyanobenzyl)imidazol-5-ylmethyl piperazine, prepared as described in Example 1 (65 mg, 0.18 mmol), in 0.5 mL of dimethylformamide at room temperature was added heptanoic acid (0.028 mL, 0.2 mmol), 1-hydroxybenzotriazole (30 mg, 0.22 mmol), triethylamine (0.10 mL, 0.72 mmol), and 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (42 mg, 0.22 mmol). After sti!ting overnight, the solution was diluted with ethyl acetate and washed with saturated sodium bicarbonate solution and brine, dried with sodium sulfate, filtered, and concentrated in vacuo. Purification by preparative HPLC was followed by conversion to the bis-hydrochloride salt by exposure of a dichloromethane solution of the product to excess ethereal HCl. Concentration in vacuo provided the titled product as a white powder (23 mg). MS: found: 394 (M+H+)

reactant | 1-(4′-Cyanobenzyl)imidazol-5-ylmethyl piperazine | C(#N)C1=CC=C(CN2C(CNCC2)CC2=CN=CN2)C=C1 | C16H19N5
reactant | heptanoic acid | 0.2 mmol, 0.028 mL | C(CCCCCC)(=O)O | C7H14O2
reactant | 1-hydroxybenzotriazole | 0.22 mmol, 30 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 0.72 mmol, 0.10 mL | C(C)N(CC)CC | C6H15N
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.22 mmol, 42 mg | Cl.CN(CCCN=C=NCC)C
solvent | dimethylformamide | 0.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[5-(4-Heptanoyl-piperazin-1-ylmethyl)-imidazol-1-ylmethyl]-benzonitrile | 23 mg | C(CCCCCC)(=O)N1CCN(CC1)CC1=CN=CN1CC1=CC=C(C#N)C=C1 | C23H31N5O
